US04456759
Preparation of 5-benzoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid (Step 5a)
Dimethyl 5-benzoyl-7-bromo-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1,1-dicarboxylate (2.04 g 5.0 mmoles) was dissolved in methanol (100 ml) and water (10 ml), and sodium hydroxide (0.40 g, 10 mmoles) was added. This solution was heated at reflux temperature in an argon atmosphere for 2 hours. The reaction mixture was evaporated to dryness in vacuo, the residue was dissolved in 50% aqueous methanol (125 ml), magnesium oxide (1.0 g) and 5% palladium on charcoal (0.400 g) were added and the mixture was hydrogenated at room temperature and atmospheric pressure for 2 hours. A sample withdrawn at this time, after workup, was analyzed by NMR and shown to contain 5-benzoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1,1-dicarboxylic acid as the sodium salt. (This material is, of course, extremely unstable in acid and decarboxylates immediately to the corresponding monocarboxylic acid if acid is added during the analytical process.) The rest of the solution was filtered through celite, the solid filter cake was washed well with methanol and water. Evaporation of most of the methanol was carried out at reduced pressure. The resulting aqueous material was made acidic with 1N, hydrochloric acid and the product was extracted into ethyl acetate (200 ml). The aqueous phase was further acidified with a few ml of concentrated hydrochloric acid and extracted with an additional quantity (150 ml) of ethyl acetate. The combined organic phases were washed with saturated sodium chloride solution, dried over sodium sulfate and evaporated to dryness to give a colorless solid (1.19 g, 93%) which was homogeneous by TLC. Recrystallization of this material from dichloromethane-hexane gave a first crop (0.699 g) melting point (154°-154.5°) corrected and a second crop (0.170 g) melting point (149°-151.5°) corrected. A third crop of the product was obtained by treatment of the residue obtained by evaporation of the mother liquors with activated charcoal in ethyl-acetate. Recrystallization from methanol-water of the material isolated from the ethyl-acetate gave the third crop (0.038 g) melting point (148°-150°) corrected. An authentic sample prepared by a well established alternative route had melting point (154.5°) corrected. The total crystallized yield of 5-benzoyl,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid was (0.907 g, 71%) based on starting material.

reactant | Dimethyl 5-benzoyl-7-bromo-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1,1-dicarboxylate | 5.0 mmoles, 2.04 g | C(C1=CC=CC=C1)(=O)C1=CC(=C2N1CCC2(C(=O)OC)C(=O)OC)Br | C18H16BrNO5
reactant | sodium hydroxide | 10 mmoles, 0.40 g | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 5-benzoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | 1.19 g, 93% | C(C1=CC=CC=C1)(=O)C1=CC=C2N1CCC2C(=O)O | C15H13NO3
